US06440995B1
4-Chloro-2-(4-methoxy-3-methyl-phenyl)-quinoline
The title compound, m. p. 90-92° C., MS: m/e=283 (M+), was prepared from 4-chloro-quinoline and 4-bromo-1-methoxy-2-methyl-benzene.

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 4-bromo-1-methoxy-2-methyl-benzene | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
product | 4-Chloro-2-(4-methoxy-3-methyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)OC)C | C17H14ClNO
